US07759385B2
4-(5-chloro-1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexyl)-amide (non-polar diastereoisomer)
The non-polar diastereoisomer of (4-dimethylamino-4-phenylcyclohexyl)-carbamic acid phenyl ester (338 mg, 1.0 mmole) was added to a solution of 5-chloro-3-piperidine-4-yl-1H-indole (218 mg, 1.0 mmole) in dioxane (10 ml). The reaction mixture was then boiled under reflux for 32 hours. The reaction mixture was worked up by distilling off dioxane and diluting with water (10 ml). The reaction mixture was adjusted to pH 11 with 5M NaOH and extracted with EE (3×20 ml). The organic phase was dried with Na2SO4 and concentrated by evaporation. The non-polar diastereoisomer of 4-(5-chloro-1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexyl)-amide was recrystallised from methanol (5 ml). It was obtained in a yield of 120 mg (25%) as a colourless solid.

reactant | (4-dimethylamino-4-phenylcyclohexyl)-carbamic acid phenyl ester | 1.0 mmole, 338 mg | C1(=CC=CC=C1)OC(NC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C21H26N2O2
reactant | 5-chloro-3-piperidine-4-yl-1H-indole | 1.0 mmole, 218 mg | ClC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15ClN2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-(5-chloro-1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexyl)-amide | CN(C1(CCC(CC1)NC(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)Cl)C1=CC=CC=C1)C | C28H35ClN4O
